US06573274B1
To a suspension of 3-(2-chloro-4-(methylamino)benzyl)-2-methyl-5-(1-pentanesulfonylcarbamoyl)-3H-imidazo[4,5-b]pyridine (188 mg) in dichloromethane (1.9 ml) were added pyridine (58 mg) and pivaloyl chloride (65 mg) at room temperature and the mixture was stirred for 2 days. The reaction mixture was diluted with chloroform, washed successively with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated and ethanol was added to the residue to give crude crystals. Ethanol was evaporated, and the residue was recrystallized from acetone-water to give 3-(2-chloro-4-(methyl(pivaloyl)amino)benzyl)-2-methyl-5-(1-pentanesulfonylcarbamoyl)-3H-imidazo[4,5-b]pyridine (199 mg) as a white powder.

reactant | 3-(2-chloro-4-(methylamino)benzyl)-2-methyl-5-(1-pentanesulfonylcarbamoyl)-3H-imidazo[4,5-b]pyridine | 188 mg | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(NS(=O)(=O)CCCCC)=O)C)C=CC(=C1)NC | C21H26ClN5O3S
reactant | pyridine | 58 mg | N1=CC=CC=C1 | C5H5N
reactant | pivaloyl chloride | 65 mg | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | dichloromethane | 1.9 ml | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-chloro-4-(methyl(pivaloyl)amino)benzyl)-2-methyl-5-(1-pentanesulfonylcarbamoyl)-3H-imidazo[4,5-b]pyridine | 199 mg | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(NS(=O)(=O)CCCCC)=O)C)C=CC(=C1)N(C(C(C)(C)C)=O)C | C26H34ClN5O4S
